US07531532B2
4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide
4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide (340 mg) was dissolved in tetrahydrofuran (8 ml) and methanol (8 ml), and then 10% palladium carbon (170 mg) was added, followed by stirring under a hydrogen atmosphere for 13 hrs. The catalyst was filtered off and washed with methanol. The filtrate and washings were concentrated under reduced pressure to give the titled compound (221 mg) as pale yellow solid.

reactant | 4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 340 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)CN2CCC2)C=CC(=C1)[N+](=O)[O-] | C20H23FN6O4
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium carbon | 170 mg | [C].[Pd]
product | 4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 221 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)CN2CCC2)C=C1)F | C20H25FN6O2
